US07696195B2
5c) (R)-3-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-hydroxy-propionic acid
A solution of 12.4 g (23.0 mmol) (1R)—B-chlorodiisopinocampheylborane in 50 mL THF was added dropwise within 30 min to a solution of 4.6 g (20.7 mmol) 3-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-oxo-propionic acid and 3.14 mL (23.0 mmol) triethylamine in 150 mL THF cooled to −35° C. and the reaction mixture was kept for 1 h at this temperature and for 4 h at RT. To complete the reaction a solution of 5.0 g (9.3 mmol) (1R)—B-chlorodiisopinocampheylborane in 50 mL THF was added and the reaction mixture was stirred overnight at RT. THF was removed i.vac. and the crude product (2.0 g) was reacted further without purification.

reactant | 3-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-oxo-propionic acid | 20.7 mmol, 4.6 g | O1CCOC2=C1C=CC(=C2)CC(C(=O)O)=O | C11H10O5
reactant | triethylamine | 23.0 mmol, 3.14 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (R)-3-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-hydroxy-propionic acid | O1CCOC2=C1C=CC(=C2)C[C@H](C(=O)O)O | C11H12O5
